US07109339B2
A microwave-compatible sealable tube was charged with (4-methyl-2-trifluoromethyl-phenyl)-hydrazine hydrochloride (434 mg, 1.6 mmol), 4-piperidone monohydrate hydrochloride (300 mg, 1.6 mmol), and 2-PrOH (3 mL). The reaction was saturated with HCl gas and the tube was sealed. The reaction mixture was subjected to microwave irradiation at 120° C. for 12 min. The solids were filtered and washed with ether to provide crude 8-methyl-6-trifluoromethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride. The resulting crude product was dissolved in THF (12 mL) and H2O (3 mL), then Na2CO3 (184 mg, 1.7 mmol) and Boc2O (374 mg, 1.7 mmol) were added consecutively. After 2 h, EtOAc (25 mL) and water (10 mL) were added. The aqueous layer was extracted with EtOAc (25 mL) and the combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 1–2.5% MeOH/CH2Cl2) to provide 8-methyl-6-trifluoromethyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (200 mg, 29%).

reactant | (4-methyl-2-trifluoromethyl-phenyl)-hydrazine hydrochloride | 1.6 mmol, 434 mg | Cl.CC1=CC(=C(C=C1)NN)C(F)(F)F
reactant | 4-piperidone monohydrate hydrochloride | 1.6 mmol, 300 mg | Cl.O.N1CCC(CC1)=O
reactant | HCl | Cl | ClH
product | 8-methyl-6-trifluoromethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | Cl.CC1=CC=2C3=C(NC2C(=C1)C(F)(F)F)CCNC3 | InChI=1S/C13H13F3N2.ClH/c1-7-4-8-9-6-17-3-2-11(9)18-12(8)10(5-7)13(14,15)16;/h4-5,17-18H,2-3,6H2,1H3;1H
